US07189851B2
A. {4-[(1Z)-3-[(2S)-1-(tert-Butoxycarbonyl)pyrrolidinyl]-2-(ethoxycarbonyl)-3-oxo-1-propenyl]phenyl}acetic acid
To a solution of 4-formylphenylacetic acid (4.31 g, 26.3 mmol) in benzene (75 ml) and piperidine (0.95 ml, 9.5 mmol) was added tert-butyl (2S)-2-(3-ethoxy-3-oxopropanoyl)-1-pyrrolidinecarboxylate (8.1 g, 28.4 mmol). The solution was refluxed under a Dean-Stark trap for 8 h. The solvent was removed by rotary evaporation. The product was purified by silica gel column chromatography (silica gel/75% ethyl acetate in petroleum ether) giving A as an off-white solid (3.81 g, 34% yield). LCMS m/z 432 (MH)+.

reactant | 4-formylphenylacetic acid | 26.3 mmol, 4.31 g | C(=O)C1=CC=C(C=C1)CC(=O)O | C9H8O3
reactant | piperidine | 9.5 mmol, 0.95 ml | N1CCCCC1 | C5H11N
reactant | tert-butyl (2S)-2-(3-ethoxy-3-oxopropanoyl)-1-pyrrolidinecarboxylate | 28.4 mmol, 8.1 g | C(C)OC(CC(=O)[C@H]1N(CCC1)C(=O)OC(C)(C)C)=O | C14H23NO5
solvent | benzene | 75 ml | C1=CC=CC=C1 | C6H6
product | {4-[(1Z)-3-[(2S)-1-(tert-Butoxycarbonyl)pyrrolidinyl]-2-(ethoxycarbonyl)-3-oxo-1-propenyl]phenyl}acetic acid | 3.81 g, 34% yield | C(C)(C)(C)OC(=O)N1[C@@H](CCC1)C(/C(=C/C1=CC=C(C=C1)CC(=O)O)/C(=O)OCC)=O | C23H29NO7
